US06476038B1
A. 7-Chloro-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine
2,5-Dimethyl-4H-pyrazolo[1,5-a]pyrimidin-7-one (3.5 g, 21 mmol) in phosphorus oxychloride (20 mL) was stirred at reflux. After 3 hours the dark purple reaction was cooled and then extracted from ice water with ethyl acetate. The combined organic layers were washed with water and saturated aqueous sodium bicarbonate, dried (Na2SO4) and then concentrated under reduced pressure to give the title compound (3.0 g, 77%) as a brown solid: +APcI MS (M+1)+ 182; H NMR (CDCl3) δ: 6.74 (s, 1H), 6.42 (s, 1H), 2.55 (s, 3H), 2.53 (s, 3H).

reactant | 2,5-Dimethyl-4H-pyrazolo[1,5-a]pyrimidin-7-one | 21 mmol, 3.5 g | CC1=NN2C(NC(=CC2=O)C)=C1 | C8H9N3O
reactant | phosphorus oxychloride | 20 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-Chloro-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine | 3.0 g, 77% | ClC1=CC(=NC=2N1N=C(C2)C)C | C8H8ClN3
